US04960888
Preparation of 6-amino-1,2-dihydro-1-hydroxy-2-imino-4-piperidinopyrimidine
1.01 g (5 mmoles) of 1-acetoxy-6-amino-4-chloro-1,2-dihydro-2-iminopyrimidine are added under stirring to a mixture containing 10 ml of ethanol and 3 ml of piperidine. The mixture is refluxed while stirring for 30 minutes, then 5 ml of 1N aqueous sodium hydroxide solution are added and the boiling is continued for additional 30 minutes. Thereafter, the mixture is evaporated under reduced pressure and the residue is mixed with 10 ml of water. The crystalline precipitate is filtered, washed with water and dried to give the aimed compound in a yield of 0.85 g (82%), m.p.: 262°-266° C.

reactant | 1-acetoxy-6-amino-4-chloro-1,2-dihydro-2-iminopyrimidine | 5 mmoles, 1.01 g | C(C)(=O)ON1C(N=C(C=C1N)Cl)=N | C6H7ClN4O2
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-amino-1,2-dihydro-1-hydroxy-2-imino-4-piperidinopyrimidine | NC1=CC(=NC(N1O)=N)N1CCCCC1 | C9H15N5O
